US06603008B1
5-[4-Ethyl-5-[4-(1,3-thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide Hydrochloride (Step 2).
The title compound was prepared according to the procedure of Example 4 step 4 using 5-[4-ethyl-5-[4-(1,3-thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide, instead of 5-{4-chloro-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide.

reactant | 5-[4-ethyl-5-[4-(1,3-thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide | C(C)C=1C(=NN(C1C1=CC=C(C=C1)C1=CN=CS1)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C20H16F3N5O2S2
reactant | 5-{4-chloro-5-[4-(1,3-thiazol-4-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl}-2-pyridinesulfonamide | ClC=1C(=NN(C1C1=CC=C(C=C1)C=1N=CSC1)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | C18H11ClF3N5O2S2
product | 5-[4-Ethyl-5-[4-(1,3-thiazol-5-yl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-pyridinesulfonamide Hydrochloride | Cl.C(C)C=1C(=NN(C1C1=CC=C(C=C1)C1=CN=CS1)C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F | InChI=1S/C20H16F3N5O2S2.ClH/c1-2-15-18(13-5-3-12(4-6-13)16-10-25-11-31-16)28(27-19(15)20(21,22)23)14-7-8-17(26-9-14)32(24,29)30;/h3-11H,2H2,1H3,(H2,24,29,30);1H
